US08703758B2
B) 4-(2-cyclopropylethoxy)-2-nitrobenzaldehyde
A solution of 2,2′-azobis(isobutyronitrile) (0.122 g), N-bromosuccinimide (3.19 g) and 4-(2-cyclopropylethoxy)-1-methyl-2-nitrobenzene (3.30 g) in ethyl acetate (100 mL) was refluxed for 8 hr. The reaction mixture was allowed to cool to room temperature, washed with saturated aqueous sodium hydrogen carbonate solution and saturated brine, and dried over anhydrous magnesium sulfate. The obtained solution was filtered with a short silica gel pad, and the filtrate was concentrated under reduced pressure. The obtained residue was dissolved in acetonitrile (150 mL), and molecular sieves 4A (10 g) and 4-methylmorpholine N-oxide (2.02 g) were added thereto at 0° C. The reaction mixture was stirred under a nitrogen atmosphere at room temperature for 3 hr, and concentrated under reduced pressure. The obtained residue was purified by silica gel chromatography (hexane/ethyl acetate) to give the title compound (1.90 g).

reactant | N-bromosuccinimide | 3.19 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | 4-(2-cyclopropylethoxy)-1-methyl-2-nitrobenzene | 3.30 g | C1(CC1)CCOC1=CC(=C(C=C1)C)[N+](=O)[O-] | C12H15NO3
solvent | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
catalyst | 2,2′-azobis(isobutyronitrile) | 0.122 g | N(=NC(C#N)(C)C)C(C#N)(C)C | C8H12N4
product | 4-(2-cyclopropylethoxy)-2-nitrobenzaldehyde | 1.90 g | C1(CC1)CCOC1=CC(=C(C=O)C=C1)[N+](=O)[O-] | C12H13NO4
